US08557983B2
1-(triisopropylsilyl)-1H-indol-4-ol
4-Benzyloxyindole (1 g) was treated with 60% oily NaH (135 mg) and triisopropylsilyl chloride (1 g) in THF, purified by flash chromatography (98/2 ethyl acetate/hexanes), then debenzylated in ethanol (35 mL) using Pearlman's catalyst (0.19 g) and a hydrogen balloon.

reactant | 4-Benzyloxyindole | 1 g | C(C1=CC=CC=C1)OC1=C2C=CNC2=CC=C1 | C15H13NO
reactant | NaH | 135 mg | [H-].[Na+]
reactant | triisopropylsilyl chloride | 1 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | C1CCOC1 | C4H8O
product | 1-(triisopropylsilyl)-1H-indol-4-ol | C(C)(C)[Si](N1C=CC=2C(=CC=CC12)O)(C(C)C)C(C)C | C17H27NOSi
